US08754068B2
Preparation of ((1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate
The crude material containing ((1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13bR)-9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate (2.98 g, 5.45 mmol) from page above was dissolved in CH2Cl2 (50 ml) and treated with PCC (1.762 g, 8.18 mmol). The mixture was stirred at rt for 2 h. TLC showed no starting material and one less polar product. The mixture was filtered through celite and silica gel and the filtrate was concentrated in vacuo to afford the title compound as a white solid

reactant | ((1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13bR)-9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate | 5.45 mmol, 2.98 g | C(C1=CC=CC=C1)(=O)OC[C@]12[C@@H](C3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)O)C)[C@@H](CC2)C(=C)C | C37H54O3
reactant | PCC | 8.18 mmol, 1.762 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | ((1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate | C(C1=CC=CC=C1)(=O)OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CCC(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)=O)C)[C@@H](CC2)C(=C)C | C37H52O3
